US04732982
1,2-Dihydro-5-[1-(Methoxyimino)hexyl]-6-methyl-2-oxo-3-pyridinecarbonitrile
A mixture of 1,2-dihydro-6-methyl-2-oxo-5-(1-oxohexyl)-3-pyridinecarbonitrile (0.80 g, 0.0034 mol), methoxyamine hydrochloride (0.32 g, 0.0038 mol) and pyridine (2.0 ml) were heated and stirred at reflux overnight in EtOH (30.0 ml). The solution was allowed to cool to room temperature and the solvent was removed on the rotary evaporator. The pasty residue was triturated with H2O, filtered and recrystallized (EtOH-H2O) giving 0.5 g (56%) m.pt. 159°-165° C. One more recrystallization gave the analytical sample m.pt. 170°-171° C.

reactant | 1,2-dihydro-6-methyl-2-oxo-5-(1-oxohexyl)-3-pyridinecarbonitrile | 0.0034 mol, 0.80 g | CC1=C(C=C(C(N1)=O)C#N)C(CCCCC)=O | C13H16N2O2
reactant | methoxyamine hydrochloride | 0.0038 mol, 0.32 g | Cl.CON
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 30.0 ml | CCO | C2H6O
product | 1,2-Dihydro-5-[1-(Methoxyimino)hexyl]-6-methyl-2-oxo-3-pyridinecarbonitrile | CON=C(CCCCC)C=1C=C(C(NC1C)=O)C#N | C14H19N3O2
